US08283354B2
A solution of 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol (0.12 g, 0.35 mmol) and triethylamine (98 μL, 0.7 mmol) in anhydrous DMF (4.0 mL) was cooled in an ice bath. 2-Methoxyethyl chloroformate (40 mL, 0.35 mmol) was added, and the ice bath was removed. The solution was stirred at room temperature overnight. Purification via silica gel chromatography using 0-10% MeOH in CH2Cl2 gave 2-methoxyethyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate (0.12 g, 80%). LC/MS: m/z 437.5 (M+H)+ at 2.20 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((S)-3-(aminomethyl)pyrrolidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.35 mmol, 0.12 g | NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C20H22N4O
reactant | triethylamine | 0.7 mmol, 98 μL | C(C)N(CC)CC | C6H15N
reactant | 2-Methoxyethyl chloroformate | 0.35 mmol, 40 mL | ClC(=O)OCCOC | C4H7ClO3
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
product | 2-methoxyethyl((S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)methylcarbamate | 0.12 g, 80% | COCCOC(NC[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C24H28N4O4
